US06797718B2
A solution of 6-chloro-4-hydroxy-5-methyl-3-nitropyridin-2(1H)-one (10.9 g, 53.4 mmol) in dichloromethane (380 mL) was cooled to 0° C. Triethylamine (22.3 mL, 160 mmol) was added, and the solution was stirred for ten minutes. Trifluoromethanesulfonic anhydride (18.0 mL, 107 mmol) was then added dropwise over a period of five minutes, and the solution was stirred for 1.5 hours at 0° C. A solution of tert-butyl 2-(2-aminoethoxy)ethylcarbamate (12.0 g, 58.8 mmol), prepared as described in Parts A through D of Example 102, in a small amount of dichloromethane was then added over a period of five minutes, and the reaction was allowed to warm to room temperature slowly and stirred overnight. The solution was then washed with water (2×150 mL) and brine (150 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting sequentially with 80:20 hexanes:ethyl acetate and 50:50 hexanes:ethyl acetate) to provide a yellow oil, which was dissolved in diethyl ether and concentrated under reduced pressure to provide 16.5 g of trifluoromethanesulfonic acid 4-[(2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl)amino]-6-chloro-5-methyl-3-nitropyridin-2-yl ester as a solid.

reactant | 6-chloro-4-hydroxy-5-methyl-3-nitropyridin-2(1H)-one | 53.4 mmol, 10.9 g | ClC1=C(C(=C(C(N1)=O)[N+](=O)[O-])O)C | C6H5ClN2O4
reactant | Triethylamine | 160 mmol, 22.3 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 107 mmol, 18.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-butyl 2-(2-aminoethoxy)ethylcarbamate | 58.8 mmol, 12.0 g | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
solvent | dichloromethane | 380 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | trifluoromethanesulfonic acid 4-[(2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl)amino]-6-chloro-5-methyl-3-nitropyridin-2-yl ester | 16.5 g | C(C)(C)(C)OC(=O)NCCOCCNC1=C(C(=NC(=C1C)Cl)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C16H22ClF3N4O8S
